US07816395B2
2-chloro-4-{[(3S)-1-(3-hydroxypropyl)-5-oxo-3-pyrrolidinyl][(2-methylphenyl)methyl]amino}benzonitrile
Borane-THF (1.0 M, 0.25 mL, 0.25 mmol) was added to a solution of 2-chloro-4-{[(2-methylphenyl)methyl][(3S)-5-oxo-1-(2-propen-1-yl)-3-pyrrolidinyl]amino}benzonitrile (20.0 mg, 0.05 mmol), and the reaction mixture stirred at room temperature overnight. Upon complete consumption of the starting material; the reaction mixture was diluted with THF (5 mL), and H2O (1.0 mL, 2.6 mmol) was added dropwise at 0° C. The mixture then warmed to room temperature over 30 min. Hydrogen peroxide (30 wt % in H2O, 36.2 mg, 0.32 mmol) and 2 N NaOH (0.06 mL, 0.12 mmol) were added at 0° C., and the resulting mixture stirred at 25° C. for 1 h and at 60° C. for 2 h. The reaction mixture was cooled and extracted twice with EtOAc. The combined organic extracts were dried over Na2SO4 and concentrated to give a crude mixture of the desired terminal alcohol and secondary alcohol racemate. The title compound (3.0 mg, 14% yield) was isolated as a white solid by HPLC purification: 30×100 Xterra Prep, eluting with water (solvent A) and acetonitrile (solvent B), no TFA; 40 to 100% (solvent B) over 17 min at a flow rate of 30 mL/min. LC-MS (ES) m/e 398.7 (M+H)+.

reactant | Borane THF | 0.25 mmol, 1.0 M, 0.25 mL | B.C1CCOC1
reactant | 2-chloro-4-{[(2-methylphenyl)methyl][(3S)-5-oxo-1-(2-propen-1-yl)-3-pyrrolidinyl]amino}benzonitrile | 0.05 mmol, 20.0 mg | ClC1=C(C#N)C=CC(=C1)N([C@@H]1CN(C(C1)=O)CC=C)CC1=C(C=CC=C1)C | C22H22ClN3O
reactant | H2O | 2.6 mmol, 1.0 mL | O | H2O
reactant | Hydrogen peroxide | 0.32 mmol, 36.2 mg | OO | H2O2
reactant | NaOH | 0.12 mmol, 2 N, 0.06 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-{[(3S)-1-(3-hydroxypropyl)-5-oxo-3-pyrrolidinyl][(2-methylphenyl)methyl]amino}benzonitrile | 3.0 mg, 14% yield | ClC1=C(C#N)C=CC(=C1)N(CC1=C(C=CC=C1)C)[C@@H]1CN(C(C1)=O)CCCO | C22H24ClN3O2
